US06416746B1
b) 6-Methoxy-3,3-dimethyl-5-prop-2-ynyloxy-indan-1-one
6-Methoxy-3,3-dimethyl-5-hydroxy-indan-1-one (2.2 g), 1.5 g of propargyl bromide, and 3.7 g of K2CO3 in 9 ml of 1-methyl pyrrolidone was placed in a 25 ml reaction flask and stirred for one hour. Then, it was stirred further at 100° C. for one hour. The reaction mixture was distributed between water and ethyl acetate. The organic phase was washed with 1N NaOH solution and NaCl solution, dried over Na2SO4 and concentrated to yield 2.7 g of a yellow liquid. UV 310 nm (ε=18′734), MS: 244(M+), 229, 105(100%).

reactant | 6-Methoxy-3,3-dimethyl-5-hydroxy-indan-1-one | 2.2 g | COC1=C(C=C2C(CC(C2=C1)=O)(C)C)O | C12H14O3
reactant | propargyl bromide | 1.5 g | C(C#C)Br | C3H3Br
reactant | K2CO3 | 3.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | 1-methyl pyrrolidone | 9 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Methoxy-3,3-dimethyl-5-prop-2-ynyloxy-indan-1-one | 2.7 g | COC1=C(C=C2C(CC(C2=C1)=O)(C)C)OCC#C | C15H16O3
